US05708007
4-(7-METHOXY-2-BENZOFURANYL)-PYRIDINE
To a solution of o-vanillin (6.0 g) and 4-picolylchloride hydrochloride (6.6 g) in DMF (70 ml) was added potassium carbonate (20.0 g) and potassium iodide (2.0 g). The mixture was stirred vigorously for 8 hours at 150° C. The mixture was filtered hot and the filter cake was washed with ethyl acetate. The organic phases were combined and concentrated in vacuo to a volume of about 10 ml, poured into water and extracted twice with ethyl acetate. The combined organic layers were washed with water, dried (Na2SO4) and concentrated in vacuo. Flash chromatography (silica gel, eluting with 1:2 heptane:ethyl acetate) afforded 2.5 g of the product, which was crystallized from heptane/ethyl acetate, m.p. 140°-141° C.

reactant | o-vanillin | 6.0 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | 4-picolylchloride hydrochloride | 6.6 g | Cl.N1=CC=C(C=C1)CCl
reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 4-(7-METHOXY-2-BENZOFURANYL)-PYRIDINE | 2.5 g | COC1=CC=CC=2C=C(OC21)C2=CC=NC=C2 | C14H11NO2
